US06194446B1
O-(3-[2-(2-Phenyl-4-oxazolyl)ethoxy]benzyl)-N-CBZ serine
0.448 g of 60% NaH/oil (0.27 g, 11.1 mM of NaH) was added to 40 mL of dry THF and cooled to 0° C. 1.21 g (5.08 mM of CBZ-serine was added dropwise as a dry DMF solution (10 mL) over 5 minutes. The resulting mixture was stirred at 0° C. for 1 hr. 2.00 g (5.58 mmoles) of 3-[2-(2-phenyl-4-oxazolyl)ethoxy]benzyl bromide, prepared as described in Example 22, Part B, was also added dropwise as a dry DMF solution (10 mL) over 5 minutes. The final mixture was stirred for 5 h at 0° C and was then allowed to warm to ambient over 12 h. The reaction was quenched with 20 mL of methanol and one equivalent of HCl. After concentrating to a small volume under reduced pressure, the mixture was diluted with 200 mL EtOAc, washed with 200 mL water (2×) and 200 mL brine. The organic phase was dried over MgSO4, filtered and concentrated to a yellow, opaque oil. The product was purified using silica column chromatography, (25:5:1 CHCl3:MeOH:NH4OH>>>3:4 MeOH:EtOAc), and recrystallized from Et2O. to provide 714 mg 49.6%) of product as a white, waxy solid.

reactant | NaH | 11.1 mM, 0.448 g | [H-].[Na+]
reactant | CBZ-serine | 5.08 mM | C(=O)(OCC1=CC=CC=C1)N[C@@H](CO)C(=O)O | C11H13NO5
reactant | 3-[2-(2-phenyl-4-oxazolyl)ethoxy]benzyl bromide | 5.58 mmoles, 2.00 g | C1(=CC=CC=C1)C=1OC=C(N1)CCOC=1C=C(CBr)C=CC1 | C18H16BrNO2
reactant | HCl | one equivalent | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | O-(3-[2-(2-Phenyl-4-oxazolyl)ethoxy]benzyl)-N-CBZ serine | C1(=CC=CC=C1)C=1OC=C(N1)CCOC=1C=C(COC[C@H](NC(=O)OCC2=CC=CC=C2)C(=O)O)C=CC1 | C29H28N2O7
